US06308001B1
Hexafluoropropene (264 g, 1.76 mol) was added dropwise to a mechanically stirred mixture of 1,4-cyclohexanedimethanol vinyl ether (300 g, 1.76 mol), acetonitrile (600 mL), and K2CO3 (121 g, 0.88 mol), at 0° C. under N2. The reaction flask was placed in an ice bath to moderate the exothermic reaction during the addition of hexafluoropropene. After complete addition of hexafluoropropene, the reaction mixture was stirred for an additional hour at room temperature and filtered. The filtrate was added to 1.5 L water and mixed well. The lower layer formed was separated, washed with water (3×300 mL), and concentrated under reduced pressure (approximately 0.05 mm Hg) to afford 1,1,2,3,3,3-hexafluoro-1-{[4(vinyloxymethyl)cyclohexyl]methoxy}propane(cis/trans mixture) as a colorless liquid (428 g, 76% yield); b.p. 55-60° C./0.05 mm Hg; Refractive Index 1.4145 at 23.7° C.; GC/MS: m/z at 320 for M+; 19F and 1H NMR spectral data are consistent with the structure.

reactant | Hexafluoropropene | 1.76 mol, 264 g | FC(C(=C(F)F)F)(F)F | C3F6
reactant | 1,4-cyclohexanedimethanol vinyl ether | 1.76 mol, 300 g | C(=C)OCC1CCC(CC1)CO | C10H18O2
reactant | K2CO3 | 0.88 mol, 121 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 600 mL | C(C)#N | C2H3N
product | 1,1,2,3,3,3-hexafluoro-1-{[4(vinyloxymethyl)cyclohexyl]methoxy}propane | 428 g, 76% yield | FC(C(C(F)(F)F)F)(OCC1CCC(CC1)COC=C)F | C13H18F6O2
